US04590198
2-(4-Chlorobenzoyl)-4-fluoro-isonicotinanilide diethyl ketal (Compound No. 16)
To a mixture of phosphorus pentachloride (7.3 g) in benzene (250 ml), 2-(4-chlorobenzoyl)-4-fluoro-isonicotinanilide (12 g) was added, and the mixture was refluxed for 2 hours under stirring. After cooling, the solvent was completely distilled off under vacuum. The resulting residue was gradually added to an ethyl alcohol solution of potassium hydroxide (3.7 g) and allowed to react at room temperature over a period of 2 hours. After completion of the reaction, ethyl alcohol was distilled off under vacuum. The resulting residue was extracted, after addition of water, with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate. Thereafter, the ethyl acetate was distilled off under vacuum. Upon recrystallizing the resulting residue with a mixed solvent of ethyl acetate and n-hexane, the titled compound was obtained in an amount of 10.7 g (yield: 75%). m.p. 96°-97° C.

reactant | phosphorus pentachloride | 7.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-(4-chlorobenzoyl)-4-fluoro-isonicotinanilide | 12 g | ClC1=CC=C(C(=O)C=2CC(C(=O)NC3=CC=CC=C3)(C=CN2)F)C=C1 | C19H14ClFN2O2
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-Chlorobenzoyl)-4-fluoro-isonicotinanilide diethyl ketal | yield: 75% | C(C)OC(C1(CC(=NC=C1)C(C1=CC=C(C=C1)Cl)=O)F)(NC1=CC=CC=C1)OCC | C23H24ClFN2O3
